US06992083B2
To a stirred solution of 65 g (40 mmol) 4-methoxy-benzooxazol-2-yl-amine and 4.5 ml (56 mmol) pyridine in 250 ml dichoromethane at 0° C. was added dropwise a solution of 4.1 ml (49 mmol) methyl chloroformate in 50 ml dichoromethane and stirring continued for 3.5 hours. The mixture was then poured onto water and extracted three times with dichloromethane. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (dichloromethane) afforded 4.7 g (54%) (4-methoxy-benzooxazol-2-yl)-carbamic acid methyl ester as an off-white crystalline solid. EI-MS m/e (%): 222 (M+, 100), 190 (27), 163 (23).

reactant | 4-methoxy-benzooxazol-2-yl-amine | 40 mmol, 65 g | COC1=CC=CC2=C1N=C(O2)N | C8H8N2O2
reactant | pyridine | 56 mmol, 4.5 ml | N1=CC=CC=C1 | C5H5N
reactant | methyl chloroformate | 49 mmol, 4.1 ml | ClC(=O)OC | C2H3ClO2
solvent | dichoromethane | 250 ml | ClCCl | CH2Cl2
solvent | dichoromethane | 50 ml | ClCCl | CH2Cl2
product | (4-methoxy-benzooxazol-2-yl)-carbamic acid methyl ester | 4.7 g, 54% | COC(NC=1OC2=C(N1)C(=CC=C2)OC)=O | C10H10N2O4
